US08623889B2
To a mixture of 6-chloro-2-(5-fluoro-2-methylphenyl)-4-methyl-1,7-naphthyridine (140.1 mg, 0.4886 mmol) and cyclopropanecarboxamide (85.9 mg, 1.01 mmol) in 1,4-dioxane (4.0 mL, 51 mmol) was added palladium (II) acetate (11.9 mg, 0.053 mmol), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (38.8 mg, 0.067 mmol), and cesium carbonate (417.3 mg, 1.281 mmol). The reaction vial was purged with nitrogen gas and then heated at 90° C. under a nitrogen balloon for 5 hours. Cyclopropanecarboxamide (38.0 mg, 0.447 mmol), palladium (II) acetate (32.0 mg, 0.143 mmol), and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (78.9 mg, 0.136 mmol) were added and the reaction heated at 100° C. for 15 hours. The reaction mixture was then diluted in ethyl acetate, washed with water and brine, dried over MgSO4, and evaporated in vacuo. The crude product was purified via reverse phase HPLC and lyophilized to yield 0.1227 g (78%) of N-(2-(5-fluoro-2-methylphenyl)-4-methyl-1,7-naphthyridin-6-yl)cyclopropanecarboxamide. LCMS (ESI): RT (min)=5.239, M+H=336.1, method=E; 1H NMR (400 MHz, DMSO) δ 11.12 (s, 1H), 9.21 (s, 1H), 8.65 (s, 1H), 7.79 (s, 1H), 7.38 (m, 3.6H), 7.23 (td, J=8.5, 2.8 Hz, 1H), 2.66 (s, 3H), 2.37 (s, 3H), 2.11 (s, 1H), 0.93-0.81 (m, 4H).

reactant | 6-chloro-2-(5-fluoro-2-methylphenyl)-4-methyl-1,7-naphthyridine | 0.4886 mmol, 140.1 mg | ClC=1C=C2C(=CC(=NC2=CN1)C1=C(C=CC(=C1)F)C)C | C16H12ClFN2
reactant | cyclopropanecarboxamide | 1.01 mmol, 85.9 mg | C1(CC1)C(=O)N | C4H7NO
reactant | 1,4-dioxane | 51 mmol, 4.0 mL | O1CCOCC1 | C4H8O2
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.067 mmol, 38.8 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | cesium carbonate | 1.281 mmol, 417.3 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Cyclopropanecarboxamide | 0.447 mmol, 38.0 mg | C1(CC1)C(=O)N | C4H7NO
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.136 mmol, 78.9 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium (II) acetate | 0.053 mmol, 11.9 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium (II) acetate | 0.143 mmol, 32.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-(2-(5-fluoro-2-methylphenyl)-4-methyl-1,7-naphthyridin-6-yl)cyclopropanecarboxamide | 0.1227 g, 78% | FC=1C=CC(=C(C1)C1=NC2=CN=C(C=C2C(=C1)C)NC(=O)C1CC1)C | C20H18FN3O
